US04367238
A mixture of 4-(2-chlorophenoxy)phenol (15 g), allyl bromide (12.5 g) and potassium carbonate (14 g) in methyl isobutyl ketone (100 ml) was refluxed under heating for 3 hours. After cooling, the reaction mixture was filtered, and the filtrate was evaporated. The residue was dissolved in diethyl ether, washed with dil. aqueous sodium hydroxide and water, dried and evaporated. The oily residue was stirred in a oil bath at 230° C. for 2 hours and distilled to give 2-allyl-4-(2-chlorophenoxy)phenol (14.7 g). bp 189°-192° C./3 mmHg.

reactant | 4-(2-chlorophenoxy)phenol | 15 g | ClC1=C(OC2=CC=C(C=C2)O)C=CC=C1 | C12H9ClO2
reactant | allyl bromide | 12.5 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
product | 2-allyl-4-(2-chlorophenoxy)phenol | 14.7 g | C(C=C)C1=C(C=CC(=C1)OC1=C(C=CC=C1)Cl)O | C15H13ClO2
